US06559164B1
Piperidine-4-carboxylic acid 3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl Ester Acetate Salt
Piperidine-4-carboxylic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester trifluoroacetate, prepared as in example 8a above, was dissolved in ethyl acetate. The resulting solution was neutralized with cold saturated NaHCO3. The ethyl acetate layer was concentrated and slurried in H2O and acidified with excess HOAc and lyophilized to give the desired product (yield—97%).

reactant | Piperidine-4-carboxylic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester trifluoroacetate | FC(C(=O)O)(F)F.CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(=O)C1CCNCC1)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Piperidine-4-carboxylic acid 3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl Ester Acetate Salt | yield—97% | C(C)(=O)O.CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(=O)C1CCNCC1)=O | InChI=1S/C29H27N5O6.C2H4O2/c1-31-14-21(19-5-3-4-6-23(19)31)25-26(22-15-32(2)24-13-18(34(38)39)7-8-20(22)24)28(36)33(27(25)35)16-40-29(37)17-9-11-30-12-10-17;1-2(3)4/h3-8,13-15,17,30H,9-12,16H2,1-2H3;1H3,(H,3,4)
